US07485634B2
Preparation of 8-(3-methoxyphenyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
To a stirred solution of 3-(4-fluorobenzoyl)-8-(3-methoxyphenyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (48 mg, 0.10 mmol) in 2 mL of EtOH was added 0.30 mL of 1 M Na2CO3 solution at ambient temperature. The reaction mixture was heated at 93° C. reflux under N2 for 3.5 hours and samples monitored by LC-MS. The solution was diluted with DCM (10 mL), washed with brine. The aqueous phase was extracted with DCM (10 mL) twice. The combined organic phase was dried over Na2SO4 and concentrated. The crude product was purified by flash chromatograph on silica gel, eluting with EtOAc-hexane (0-30%) to yield the title compound (33 mg) as a yellow solid; 1H-NMR (CDCl3): δ 10.46 (1H, s), 7.73 (1H, d), 7.47 (1H, d), 7.37 (1H, d), 7.26 (2H, m), 7.12 (1H, m), 7.00 (1H, m), 6.79 (1H, m), 5.25 (1H, s), 4.21(2H, m), 3.80 (3H, s), 3.55 (2H, m), 3.11 (2H, m), 1.26 (3H, t). MS (ESI): 363 (MH+).

reactant | 3-(4-fluorobenzoyl)-8-(3-methoxyphenyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 0.10 mmol, 48 mg | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=C(C=CC21)C2=CC(=CC=C2)OC)C(C2=CC=C(C=C2)F)=O | C29H25FN2O4
reactant | Na2CO3 | 1 M, 0.30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-(3-methoxyphenyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 33 mg | C(C)OC(=O)C1=CNCCC2=C1NC=1C=C(C=CC21)C2=CC(=CC=C2)OC | C22H22N2O3
